US04861769
A mixture of ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate (syn isomer)(5.26 g), trityl chloride (12.9 g) and 4-dimethylaminopyridine (224 mg) in pyridine (25 ml) was stirred at 50°-60° C. for 4 hours. The mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. The organic solution was washed successively with 1N hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated in vacuo to give a crystal. The crystal was washed with n-hexane and diisopropyl ether, heated in methanol (80 ml) under reflux, and finally cooled to give ethyl 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer)(11 g) as a crystal.

reactant | ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate | 5.26 g | NC1=NC(=NS1)C(C(=O)OCC)=NOC1CC1 | C9H12N4O3S
reactant | trityl chloride | 12.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
catalyst | 4-dimethylaminopyridine | 224 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetate | 11 g | C1(CC1)ON=C(C(=O)OCC)C1=NSC(=N1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N4O3S
